US08859592B2
Triethylamine (7.8 ml) and methanol (72 ml) were added at ambient temperature to a solution of 4-bromo-7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole (7.96 g) (Example I6) in N,N-dimethylformamide (72 ml). [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (“PdCl2(dppf)”) (654 mg) was added and the reaction mixture was stirred in a pressure reactor in an atmosphere of carbon monoxide (3 bar) at 87° C. for 16 hours. The reaction mixture was cooled to ambient temperature, filtered through a plug of Celite® and concentrated. The residue was purified by column chromatography (heptane/ethyl acetate) to give 7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid methyl ester (4.01 g) as an orange oil. 1H-NMR (CDCl3, 400 MHz): 8.43-7.57 (m, 5H), 4.66 (d, 1H), 4.27 (d, 1H), 4.09 (s, 3H) ppm.

reactant | Triethylamine | 7.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 72 ml | CO | CH4O
reactant | 4-bromo-7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole | 7.96 g | BrC1=CC=C(C=2C1=NSN2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C16H7BrCl2F3N3OS
reactant | carbon monoxide | [C]=O | CO
reactant | N,N-dimethylformamide | 72 ml | CN(C=O)C | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 654 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzo[1,2,5]thiadiazole-4-carboxylic acid methyl ester | 4.01 g | COC(=O)C1=CC=C(C=2C1=NSN2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C18H10Cl2F3N3O3S
